US05002941
2-(4-Pyridyl) 6,7 dihydro [5H]-pyrrolo[1,2 a]imidazole
A stirred suspension of 10q (35.6 mmoles) of 4-(bromoacetyl) pyridine hydrobromide and 12.9 q (107 mmoles) of 2-imino-pyrrolidine hydrochloride in 100 ml of dry dimethylformamide was treated with 18.9 q (178 mmoles) of anhydrous sodium carbonate. This suspension was heated at 80° C. overnight in an oil bath. The solvent was removed in vacuo, the residue dissolved in water and extracted with chloroform. The organic layer was washed three times with water, dried over anhydrous potassium carbonate and stripped in vacuo. The residue was chromatographed on silica and eluted with 10-15% methanol in methylene chloride acetone (85:15). This fraction was stripped in vacuo and the solid residue recrystallized twice from ethyl acetate to afford the desired titled compound, mp 140-141° C., 1HNMR (250 MHz, CDCl3) δ8 62 (2H,d), 7.60(2H,d), 7.34(lH,s), 4.04(2H,t), 2.95 (2H,t), 2.64(2H,q).

reactant | 4-(bromoacetyl) pyridine hydrobromide | Br.BrCC(=O)C1=CC=NC=C1
reactant | 2-imino-pyrrolidine hydrochloride | 107 mmoles | Cl.N=C1NCCC1
reactant | sodium carbonate | 178 mmoles | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Pyridyl) 6,7 dihydro [5H]-pyrrolo[1,2 a]imidazole | N1=CC=C(C=C1)C=1N=C2N(C1)CCC2 | C11H11N3
